US05972943
N-(14-Nitroxytetradecyl)-6-(4-methyl-1-piperazinyl)pyridine-3-carboxamide
To a solution of N-(14-mesyloxytetradecyl)-6-(4-methyl-1-piperazinyl)pyridine-3-carboxamide in toluene was added Amberlyst A-26 (a nitrate form) and the mixture was heated under reflux for 3 hours. The ion-exchange resin was filtered off and the filtrate was distilled off. The residue thus obtained was chromatographed over a silica gel column to afford 0.85 g of the title compound.

reactant | N-(14-mesyloxytetradecyl)-6-(4-methyl-1-piperazinyl)pyridine-3-carboxamide | S(=O)(=O)(C)OCCCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)C | C26H46N4O4S
reactant | nitrate | [N+](=O)([O-])[O-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(14-Nitroxytetradecyl)-6-(4-methyl-1-piperazinyl)pyridine-3-carboxamide | 0.85 g | O([N+](=O)[O-])CCCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)C | C25H43N5O4
